***********
.subckt 1205_156125BS57000 1 2 
D1 2 1 led
.MODEL led D
+ IS=2.8011E-15
+ N=3.8667
+ RS=5.9629
+ IKF=6.8496E-3
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=100.00E-6
.ends
***********
.subckt 1205_156125GS57000 1 2 
D1 2 1 led
.MODEL led D
+ IS=836.67E-15
+ N=5
+ RS=8.7596
+ IKF=7.4159E-3
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=100.00E-6
.ends
***********
.subckt 1205_156125RS57000 1 2 
D1 2 1 led
.MODEL led D
+ IS=13.159E-12
+ N=3.6976
+ RS=1.2441
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=100.00E-6
.ends
***********
.subckt 1205_156125VS57000 1 2 
D1 2 1 led
.MODEL led D
+ IS=158.93E-15
+ N=3.0933
+ RS=1.2262
+ IKF=244.82E-6
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=100.00E-6
.ends
***********
.subckt 1205_156125YS57000 1 2 
D1 2 1 led
.MODEL led D
+ IS=336.45E-12
+ N=4.5346
+ RS=1.0927
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=100.00E-6
.ends
***********
.subckt 1205_156125RS57099 1 2 
D1 2 1 led
.MODEL led D
+ IS=162.51E-12
+ N=4.1562
+ RS=.95161
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=100.00E-6
.ends
***********
.subckt 1205_156125YS57099 1 2 
D1 2 1 led
.MODEL led D
+ IS=336.45E-12
+ N=4.5346
+ RS=1.0927
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=100.00E-6
.ends
***********



































